US04215044
A mixture of 34.56 g (0.25 mol) of 4-fluoroacetophenone, 32.6 g (0.3 mol) of chlorotrimethylsilane, 60.6 g (0.6 mol) of triethylamine and 100 ml of dimethylformamide was refluxed overnight, cooled, and diluted with 200 ml of pentane. This mixture was washed successively three times with 300 ml of cold 5% aqueous sodium bicarbonate, with cold 1.5 N hydrochloric acid, and with 5% aqueous sodium bicarbonate, dried and distilled to give 19.44 g of 1-(4-fluorophenyl)vinyloxytrimethylsilane as a colorless liquid: bp 55°-57° C. (0.12 mm); 19F NMR (CFCl3) δ-114.1 ppm (m); 1H NMR (CFCl3) δ 0.25 ppm (s, 9H), 4.35 ppm (d,J=1.5 Hz, 1H), 4.77 ppm (d,J=1.5 Hz, 1H), 6.9 ppm (m, 2H) and 7.5 ppm (m, 2H). Anal. Calcd. for C11H15FOSi: C, 62.82; H, 7.19; Found: C, 62.97; H, 7.31.

reactant | 4-fluoroacetophenone | 0.25 mol, 34.56 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | chlorotrimethylsilane | 0.3 mol, 32.6 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 0.6 mol, 60.6 g | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | pentane | 200 ml | CCCCC | C5H12
product | 1-(4-fluorophenyl)vinyloxytrimethylsilane | 19.44 g | FC1=CC=C(C=C1)C(=C)O[Si](C)(C)C | C11H15FOSi
